US06593330B2
Step 1: 2-Chloro-6-[2-(1H-indol-3-yl)ethoxy]pyrazine
K-t-BuO (2.32 g, 20.6 mmol) was added to a stirred solution of tryptophol (1.7 g, 10.6 mmol) in dioxane (30 mL) at 0° C. (ice-bath). After being stirred for 10 min at 0° C. and 10 min at room temperature, the mixture was chilled to 0° C. (ice-bath) and 2,6-dichloropyrazine (1.37 g, 9.17 mmol) was added. The yellowish reaction mixture was stirred at 0° C. for 30 min and for a further 20 min at room temperature. The mixture was diluted with dichloromethane, filtered, and concentrated in vacuo to furnish a brownish oil. This material was purified by chromatography on silica gel (14×5 cm) using n-hexane/ethyl acetate (75:25). This furnished 1.38 g (55%) of the title compound as a beige solid. Purity>90% by 1H NMR in CDCl3.

reactant | tryptophol | 10.6 mmol, 1.7 g | C=1C=CC2=C(C1)C(=CN2)CCO | C10H11NO
reactant | 2,6-dichloropyrazine | 9.17 mmol, 1.37 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Chloro-6-[2-(1H-indol-3-yl)ethoxy]pyrazine | ClC1=NC(=CN=C1)OCCC1=CNC2=CC=CC=C12 | C14H12ClN3O
